US05334749
A 500-ml eggplant type flask was charged with 50 g of 3-chloro-4-hydroxybenzoic acid methyl ester, 285 g of diethyleneglycol and further with 2.5 g of PTS (p-toluenesulfonic acid monohydrate) as a catalyst to form a mixture. The mixture was heated with stirring on an oil bath, externally regulated at a temperature of 150° C., to react the mixture for 5 hours. Thereafter, excess diethylene glycol therein was removed by means of vacuum distillation. The residue therein was poured into ice water and the precipitated crystals were recrystallized using benzene/ethanol to obtain 49 g of 3-chloro-4-hydroxybenzoic acid [2-(2-hydroxyethoxy)ethyl]-ester (melting point: 77.5° to 78° C.). To 100 ml of an acetonitrile solution containing 30 g of the 3-chloro-4-hydroxybenzoic acid [2-(2-hydroxyethoxy)ethyl]ester, 57.2 g of N-methylpyrrolidone and further 36 g of methacrylic acid chloride were added with stirring to form a solution. The solution was stirred for 8 hours at 40° C. to react the solution. Thereafter, excess methacrylic acid chloride was removed by means of vacuum distillation. The reaction mixture remaining therein was poured into ice water, and the precipitated crystals were obtained by filtration. The crystals were recrystallized with ethyl acetate/n-hexane to obtain 3-chloro-4-hydroxybenzoic acid [2-(2-methacryloyloxyethoxy)ethyl]ester (melting point: 57° to 58.5° C.).

reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | 3-chloro-4-hydroxybenzoic acid [2-(2-hydroxyethoxy)ethyl]ester | 30 g | OCCOCCOC(C1=CC(=C(C=C1)O)Cl)=O | C11H13ClO5
reactant | methacrylic acid chloride | 36 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | N-methylpyrrolidone | 57.2 g | CN1C(CCC1)=O | C5H9NO
product | 3-chloro-4-hydroxybenzoic acid [2-(2-methacryloyloxyethoxy)ethyl]ester | C(C(=C)C)(=O)OCCOCCOC(C1=CC(=C(C=C1)O)Cl)=O | C15H17ClO6
